US07368477B2
To a solution of triphenylphoshine (1.44 g, 5.48 mmol) in toluene (50 mL) cooled to 0° C. was added the diisopropylazadicarboxylate (1.11 g, 5.48 mmol) followed by the phthalimide (0.81 g, 5.48 mmol) and the reaction mixture allowed to stir for 10 min. The (7-bromo-5-chloro-1-benzofuran-2-yl)methanol (1.37 g, 5.22 mmol) was then added and the reaction was allowed to stir at 0° C. an additional 1 h. The reaction mixture was then quenched with water (1 mL) and the solvent was removed in vacuo to provide a crude solid. The solid was suspended in water (100 mL) and the aqueous layer was extracted with ethyl acetate (3×100 mL), the combined organic extracts were washed with saturated aqueous sodium chloride (50 mL), dried (magnesium sulfate), and the solvent removed in vacuo to provide a crude residue. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:5) provided 1.73 g (85%) of 2-[(7-bromo-5-chloro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione as a white solid. mp 194-198° C.; HRMS-ESI (m/z). [M+H]+ calcd for C17H9BrClNO3, 388.94545; found, 389.9553.

reactant | triphenylphoshine | 5.48 mmol, 1.44 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 5.48 mmol, 0.81 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | (7-bromo-5-chloro-1-benzofuran-2-yl)methanol | 5.22 mmol, 1.37 g | BrC1=CC(=CC=2C=C(OC21)CO)Cl | C9H6BrClO2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 mL | O | H2O
product | 2-[(7-bromo-5-chloro-1-benzofuran-2-yl)methyl]-1H-isoindole-1,3(2H)-dione | 1.73 g, 85% | BrC1=CC(=CC=2C=C(OC21)CN2C(C1=CC=CC=C1C2=O)=O)Cl | C17H9BrClNO3
